* Z:\mnt\design.r\spice\examples\1551LCS8-4.1.asc
V1 IN 0 5
C1 N003 N002 .1µ
C2 N001 0 .1µ
C3 OUT 0 10µ
Rload OUT 0 1K
XU1 0 IN N002 OUT N003 0 N001 OUT LTC1551LCS8-4.1
.tran 1m
.lib LTC1551LCS8-4.1.sub
.backanno
.end
